US04065573
To a solution of 2.68 g. (0.010 mole) of 4-carboxy-4-(2-thienyl)cyclohexanone ethylene ketal and 1.39 ml. triethylamine in 40 ml. ethanol there is added 2.75 g. diphenylphosphonic azide. Following 5 hours' heating at reflux the bulk of the solvent is removed in vacuum. The residue is dissolved in water and ether:benzene. The organic layer is washed in turn with water, ice cold 2.5 N hydrochloric acid, water, saturated sodium bicarbonate and brine ad taken to dryness. The residual solid is recrystallized from cyclohexane to give 1.58 g. (51% yield) of 4-(2-thienyl)-4-ethoxycarbonylaminocyclohexanone ethylene ketal, m.p. 113°-117° C.

reactant | 4-carboxy-4-(2-thienyl)cyclohexanone ethylene ketal | 0.010 mole | C1COC2(CCC(CC2)(C=2SC=CC2)C(=O)O)O1 | C13H16O4S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphonic azide | C1=CC=C(C=C1)OP(=O)(N=[N+]=[N-])OC2=CC=CC=C2 | C12H10N3O3P
reactant | ethanol | C(C)O | C2H6O
product | 4-(2-thienyl)-4-ethoxycarbonylaminocyclohexanone ethylene ketal | 51% yield | C1COC2(CCC(CC2)(NC(=O)OCC)C=2SC=CC2)O1 | C15H21NO4S
